US09326973B2
To a solution of benzyl 2-methyl-3,4-dihydro-2H-pyran-2-carboxylate (1.0 g, 3.44 mmol) in THF (10 mL) was added BH3.THF (2.07 mL, 2.07 mmol) dropwise in an ice/acetone bath in 10 min. The reaction mixture was stirred in the bath for 4 h. The reaction mixture was quenched by the addition of a solution of sodium acetate (0.283 g, 3.44 mmol) in water (3 mL). After being stirred for 10 min, H2O2 (0.3 mL, 4.89 mmol) was added. The reaction mixture was stirred at rt for 2 h. The reaction mixture was diluted with EtOAc and washed with sat. NH4Cl, brine, and dried (MgSO4). The solvent was removed in vacuum to afford benzyl 5-hydroxy-2-methyltetrahydro-2H-pyran-2-carboxylate.

reactant | benzyl 2-methyl-3,4-dihydro-2H-pyran-2-carboxylate | 3.44 mmol, 1.0 g | CC1(OC=CCC1)C(=O)OCC1=CC=CC=C1 | C14H16O3
reactant | BH3.THF | 2.07 mmol, 2.07 mL | B.C1CCOC1
reactant | sodium acetate | 3.44 mmol, 0.283 g | C(C)(=O)[O-].[Na+]
reactant | H2O2 | 4.89 mmol, 0.3 mL | OO | H2O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 3 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | benzyl 5-hydroxy-2-methyltetrahydro-2H-pyran-2-carboxylate | OC1CCC(OC1)(C(=O)OCC1=CC=CC=C1)C | C14H18O4
